US04011243
0.5 Gm. of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propan-1-ol in 50 ml. of benzene, is refluxed for 6 hours with 4.0 gm. of silver carbonate on celite, prepared as described in Compt. Rendus. (1968) C, 267, 900a. The mixture is cooled and filtered and the solution evaporated to afford a 70% yield of 2-(5,5-ethylenedioxy-5H-dibenzo-[a,d]cyclohepten-2-yl)propionaldehyde.

reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propan-1-ol | C1OC2(C3=C(C=CC4=C2C=CC(=C4)C(CO)C)C=CC=C3)OC1 | C20H20O3
catalyst | silver carbonate | C([O-])([O-])=O.[Ag+2]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(5,5-ethylenedioxy-5H-dibenzo-[a,d]cyclohepten-2-yl)propionaldehyde | 70% yield | C1OC2(C3=C(C=CC4=C2C=CC(=C4)C(C=O)C)C=CC=C3)OC1 | C20H18O3
